US07384934B2
Combine (S)-6-fluoro-10-[3-(3-methoxy-propyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene (0.105 g, 0.270 mmol), formaldehyde (31 μL, 0.378 mmol, 37%), and sodium triacetoxyborohydride (0.086 g, 0.405 mmol) in dichloroethane (6 mL) and stir at room temperature overnight. Dilute the mixture with saturated sodium bicarbonate and extract three times with methylene chloride. Combine the organic layers, dry over sodium sulfate and concentrate under reduced pressure to give the crude product. Purification by flash chromatography, eluting with a step gradient starting with dichloromethane going to 5% 2N ammonia-methanol in dichloromethane gives (S)-6-fluoro-10-[3-(3-methoxy-propyl)-4-methyl-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene (0.097 g, 0.240 mmol, 89%) as a yellow oil. Mass spectrum (APCI): m/z=403.1 (M+1). Isolate clean product as the corresponding dihydrochloride in the following manner: dissolve the yellow foam in ethanol (5 mL) and add a solution of about 5 equivalents of HCl in ethanol (5 mL). Evaporate the mixture to obtain (S)-6-fluoro-10-[3-(3-methoxy-propyl)-4-methyl-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene dihydrochloride.

reactant | (S)-6-fluoro-10-[3-(3-methoxy-propyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 0.270 mmol, 0.105 g | FC=1C=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](NCC2)CCCOC)C)C1 | C20H25FN4OS
reactant | formaldehyde | 0.378 mmol, 31 μL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.405 mmol, 0.086 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 6 mL | ClC(C)Cl | C2H4Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (S)-6-fluoro-10-[3-(3-methoxy-propyl)-4-methyl-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 0.240 mmol, 0.097 g, 89% | FC=1C=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](N(CC2)C)CCCOC)C)C1 | C21H27FN4OS
